US04088681
A mixture of 28 g of 2,3,6-trimethyl-cyclohexanone and 27 g of the isomer mixture consisting of 2,6-dimethyl-oct-2,5-dien-7-yne and 2-methyl-6-methylene-oct-2-en-7-yne, obtained by elimination of water from 2-dehydrolinalool, is added dropwise to a suspension of 35 g of KOH in 200 ml of toluene at 0° C. The reaction mixture is then kept for 6 hours at 0° C, whilst being stirred, after which water is added and the organic phase formed is dried and concentrated. Subsequent fractional distillation gives 12.3 g of unconverted trimethylcyclohexanone and 12 g of a mixture of 2,3,6-trimethyl-1-(3',7'-dimethyl-oct-1'-yn-3',6'-dien-1'-yl)-cyclohexanol and 2,3,6-trimethyl-1-(7'-methyl-3'-methylene-oct-1'-yn-6'-en-1'-yl)-cyclohexanol of boiling point 125°-127° C/0.4 mm Hg as a viscous oil. This corresponds to a yield of 39%, based on ketone converted. Fragrance note: faintly floral, spicy, minty.

reactant | 2,3,6-trimethyl-cyclohexanone | 28 g | CC1C(C(CCC1C)C)=O | C9H16O
reactant | 2,6-dimethyl-oct-2,5-dien-7-yne | CC(C)=CCC=C(C#C)C | C10H14
reactant | 2-methyl-6-methylene-oct-2-en-7-yne | CC(C)=CCCC(C#C)=C | C10H14
solvent | water | O | H2O
product | 2-dehydrolinalool | CC(=CCCC(C)(C#C)O)C | C10H16O
